* Use the SPICE model for the op amp
.include LM358.lib

* Define a voltage source which
* provides the sine input signal for the attenuator
Vsource Vsource 0 SIN(0 5 1k 0 0 0 100)
* With this amplitude, the Op Amp should saturate

* OPV Supply Voltage
V12 V12 0 DC 12
Vn12 Vn12 0 DC -12

* Clamping Voltages
V5 V5 0 DC 5
Vn5 Vn5 0 DC -5

* First configuration: Use  1 + (R1 / R2)
* The amplification factor should be 3
Ra1 VopOut Vatt 22.6k
Ra2 Vatt 0 11.5k
* OPV instantiations
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |    |
*                   |   |   |   |    |
XOP1 					Vsource Vatt V12 Vn12 VopOut LM358


* Now define the simulation parameters
* We want to perform a transient analysis, which
* simulates the time behaviour of the circuit
* The duration of the simulation is set to 5µs
* and the time steps are set to 0.1 nano seconds
* a finer step size increases the resolution but also
* needs more time to calculate the transient analysis.
.tran 1u 2m

* Here we define what we want ngspice to perform and report in the end
.control
* run the simulation
run

* plot the voltage on some interesting virtual wires
plot v(Vsource) v(VopOut) title "input and output voltage"
.endc
.end
