* Use the SPICE model for the op amp
.include LM358.lib

* Define a voltage source which
* provides the sine input signal for the attenuator
Vsource Vsource 0 SIN(0 9 1k 0 0 0 100)

* OPV Supply Voltage
V12 V12 0 DC 12
Vn12 Vn12 0 DC -12

* Connect input signal to non-inv OPV input
R1 Vsource VopIn 6.81k
* Connect feedback loop
R2 VopIn Vout 1.15k
* OPV instantiations
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |    |
*                   |   |   |   |    |
XOP1 								0 VopIn V12 Vn12 Vout LM358

* Add offset
Radd V12 VopIn 9.09k



* Now define the simulation parameters
* We want to perform a transient analysis, which
* simulates the time behaviour of the circuit
* The duration of the simulation is set to 5µs
* and the time steps are set to 0.1 nano seconds
* a finer step size increases the resolution but also
* needs more time to calculate the transient analysis.
.tran 1u 2m

* Here we define what we want ngspice to perform and report in the end
.control
* run the simulation
run

* plot the voltage on some interesting virtual wires
plot v(Vsource) v(Vout) title "input and output voltage"
.endc
.end
